US08633183B2
A-22) 5-Trimethylsilanylethynyl-1H-pyrazolo[3,4-b]pyridine
The title compound is synthesized according to general procedure GP2 starting from 1.0 g (5.1 mmol) 5-bromo-1H-pyrazolo[4,5-b]pyridine and 1.0 mL (7.1 mmol) 1-trimethylsilyl-ethyne using 29 mg (0.15 mmol) CuI, 133 mg (0.51 mmol) triphenylphosphine, 106 mg (0.15 mmol) PdCl2(PPh3)2 and 8.4 mL (60.6 mmol) triethylamine in 8 mL dry THF. The formed precipitate is filtered off and the product is purified by RP-HPLC using an ACN/H2O gradient. Yield: 542 mg (50%).

reactant | 5-bromo-1H-pyrazolo[4,5-b]pyridine | 5.1 mmol, 1.0 g | BrC1=CC=C2C(=N1)C=NN2 | C6H4BrN3
reactant | 1-trimethylsilyl-ethyne | 7.1 mmol, 1.0 mL, 29 mg | C[Si](C#C)(C)C | C5H10Si
reactant | triphenylphosphine | 0.51 mmol, 133 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 60.6 mmol, 8.4 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(PPh3)2 | 0.15 mmol, 106 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Trimethylsilanylethynyl-1H-pyrazolo[3,4-b]pyridine | C[Si](C)(C)C#CC=1C=C2C(=NC1)NN=C2 | C11H13N3Si
